US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[3-(trifluoromethyl)-benzoyl]amino]benzamide monohydrochloride
The titled compound was prepared substantially in accordance with the method detailed in Example 11 using 14.1 g (0.0612 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide, prepared as in Example 6A, and 25.5 g (0.1224 mol) of m-trifluoromethylbenzoyl chloride with the exception that after removing ethyl acetate the resulting solid was suspended in methanol. To this suspension was added a diethyl ether/hydrochloric acid solution. The resulting solution was reduced to dryness under reduced pressure and the final product was recrystallized from an ethanol/diethyl ether solution to provide 22.97 g of the desired titled compound (m.p. 199°-201.5° C.).

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide | 0.0612 mol, 14.1 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | m-trifluoromethylbenzoyl chloride | 0.1224 mol, 25.5 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[3-(trifluoromethyl)-benzoyl]amino]benzamide monohydrochloride | 22.97 g | Cl.N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | InChI=1S/C20H17F3N4O2.ClH/c21-20(22,23)14-5-3-4-13(12-14)18(28)27-16-7-2-1-6-15(16)19(29)26-9-8-17-24-10-11-25-17;/h1-7,10-12H,8-9H2,(H,24,25)(H,26,29)(H,27,28);1H
